### PR TITLE
[Merged by Bors] - feat(Algebra/CharP/ExpChar): add `expChar[_pow]_pos`

### PR DESCRIPTION
**Pull request by acmepjz**
... which states that (the power of) exponential characteristic is positive.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CharP/ExpChar.lean [hunk 1]
```diff
@@ -107,6 +107,15 @@ theorem expChar_is_prime_or_one (q : ℕ) [hq : ExpChar R q] : Nat.Prime q ∨ q
   case prime hp _ => exact .inl hp
 #align exp_char_is_prime_or_one expChar_is_prime_or_one
 
+/-- The exponential characteristic is positive. -/
+theorem expChar_pos (q : ℕ) [ExpChar R q] : 0 < q := by
+  rcases expChar_is_prime_or_one R q with h | rfl
+  exacts [Nat.Prime.pos h, Nat.one_pos]
+
+/-- The power of exponential characteristic is positive. -/
```
Comment (alreadydone) [inline Mathlib/Algebra/CharP/ExpChar.lean:115]:
```suggestion
/-- Any power of the exponential characteristic is positive. -/
```

**Review by alreadydone — APPROVED** [review]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
